US04282365
Step F: 6,11-Dihydro-11-oxodibenz[b,e]oxepin-2-carboxylic acid
Reflux 27.3 gm. of 2-cyano-6,11-dihydro-11-oxodibenz[b,e]oxepin in a mixture of 300 cc. of 37% aqueous hydrochloric acid and 300 cc. of glacial acetic acid for 24 hours. Cool, dilute with water and separate the solids by filtration in order to obtain the title product (m.p. 250° C. dec.).

reactant | 2-cyano-6,11-dihydro-11-oxodibenz[b,e]oxepin | C(#N)C1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1 | C15H9NO2
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 6,11-Dihydro-11-oxodibenz[b,e]oxepin-2-carboxylic acid | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)O | C15H10O4
